US08247415B2
Step B: N-[4-({(2S,5R)-5-[(R)-(3-fluorophenyl)(hydroxy)methyl]pyrrolidin-2 yl}methyl)phenyl]-2-(1,3-thiazol-4-yl)propanamide (isomer 1) (Example 274)
To a solution of 8 mg (0.01 mmol) of tert-butyl (2S,5R)-2-(4-{[2-(2-amino-1,3-thiazol-4-yl)propanoyl]amino}benzyl)-5-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(3-fluorophenyl)methyl]pyrrolidine-1-carboxylate (isomer 1) in 0.20 mL methanol from Step A was added 0.20 mL conc. HCl and the reaction mixture stirred at room temperature for 1 h. Azeotrop with toluene (2×) to remove water. The residue was taken up in acetonitrile/water/MeOH (9:1:1) and purified on the Gilson HPLC eluting with a 0-50% gradient of acetonitrile/water with 0.05% TFA buffer. The fractions containing the product were combined, frozen, and lyophilized to give a white foam (Example 274) (5.1 mg, 88%). m/z (ES) 440 (MH)+.

reactant | tert-butyl (2S,5R)-2-(4-{[2-(2-amino-1,3-thiazol-4-yl)propanoyl]amino}benzyl)-5-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(3-fluorophenyl)methyl]pyrrolidine-1-carboxylate | 0.01 mmol, 8 mg | NC=1SC=C(N1)C(C(=O)NC1=CC=C(C[C@H]2N([C@H](CC2)[C@@H](C2=CC(=CC=C2)F)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)C=C1)C | C35H49FN4O4SSi
reactant | HCl | 0.20 mL | Cl | ClH
solvent | methanol | 0.20 mL | CO | CH4O
product | N-[4-({(2S,5R)-5-[(R)-(3-fluorophenyl)(hydroxy)methyl]pyrrolidin-2 yl}methyl)phenyl]-2-(1,3-thiazol-4-yl)propanamide | FC=1C=C(C=CC1)[C@H]([C@H]1CC[C@H](N1)CC1=CC=C(C=C1)NC(C(C)C=1N=CSC1)=O)O | C24H26FN3O2S
